US06384072B1
To a solution of ethyl {[(5SR,6SR)-6-(N,N -diphenylcarbamoyloxy)methyl-5,6-dihydroxy-6,7,8,9-tetrahydro -5H-benzocyclohepten-1-yl]oxy}acetate (70 mg) in a mixture of MeOH and 1,4-dioxane (1:1, 4 ml) was added 1N sodium hydroxide solution (0.138 ml) at 5° C. The mixture was stirred at room temperature for 1.5 hours. The reaction mixture was evaporated followed by addition of Et2O. The resulting solid was collected by filtration to give sodium {[(5SR,6SR)-6-(N,N -diphenylcarbamoyloxy)methyl-5,6-dihydroxy-6,7,8,9-tetrahydro -5H-benzocyclohepten-1-yl]oxy}acetate (65.8 mg).

reactant | ethyl {[(5SR,6SR)-6-(N,N -diphenylcarbamoyloxy)methyl-5,6-dihydroxy-6,7,8,9-tetrahydro -5H-benzocyclohepten-1-yl]oxy}acetate | 70 mg | C1(=CC=CC=C1)N(C(=O)OCC1(C(C2=C(CCC1)C(=CC=C2)OCC(=O)OCC)O)O)C2=CC=CC=C2 | C29H31NO7
reactant | sodium hydroxide | 1N, 0.138 ml | [OH-].[Na+]
solvent | MeOH | CO | CH4O
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | sodium {[(5SR,6SR)-6-(N,N -diphenylcarbamoyloxy)methyl-5,6-dihydroxy-6,7,8,9-tetrahydro -5H-benzocyclohepten-1-yl]oxy}acetate | 65.8 mg | C1(=CC=CC=C1)N(C(=O)OCC1(C(C2=C(CCC1)C(=CC=C2)OCC(=O)[O-])O)O)C2=CC=CC=C2.[Na+] | InChI=1S/C27H27NO7.Na/c29-24(30)17-34-23-15-7-13-22-21(23)14-8-16-27(33,25(22)31)18-35-26(32)28(19-9-3-1-4-10-19)20-11-5-2-6-12-20;/h1-7,9-13,15,25,31,33H,8,14,16-18H2,(H,29,30);/q;+1/p-1
